US08912186B2
By a procedure similar to that of example 1.59.2, starting from 1-(2-phenanthrenyl)-3-phenylprop-2-en-1-one and diethyl malonate, diethyl 2-[3-oxo-3-(2-phenanthrenyl)-1-phenylpropyl]malonate was obtained as colourless solid.

reactant | 1-(2-phenanthrenyl)-3-phenylprop-2-en-1-one | C1=C(C=CC=2C3=CC=CC=C3C=CC12)C(C=CC1=CC=CC=C1)=O | C23H16O
reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | diethyl 2-[3-oxo-3-(2-phenanthrenyl)-1-phenylpropyl]malonate | O=C(CC(C1=CC=CC=C1)C(C(=O)OCC)C(=O)OCC)C1=CC=2C=CC3=CC=CC=C3C2C=C1 | C30H28O5
